US08242130B2
In a 100 mL round-bottomed flask fitted with condenser and magnetic stirrer were placed 2′-hydroxy-5′-methoxyacetophenone (2.0 g, 12.03 mmol), 4-acetoxymethylbenzoic acid (2.4 g, 12.03 mmol) and pyridine (20 mL). POCl3 (1.8 g, 12.03 mmol) was added slowly on cooling. The reaction mixture was stirred for 24 h at rt under nitrogen. The reaction mixture was poured into ice-water and extracted with EtOAc. The organic layer was washed with water, dried and concentrated to give the product (3.08 g, 72%). To a solution of this product (3.08 g, 8.99 mmol) in THF (50 mL), was added potassium t-butoxide (1.32 g, 10.07 mmol) and the reaction mixture was stirred for 24 h at rt under N2. The reaction mixture was poured into saturated aqueous NH4Cl. The organic layer was separated, washed with water, dried and concentrated to give the crude diketone (3.07 g, 99%). The diketone compound (3.07 g, 8.96 mmol) was dissolved in a mixture of 48% HCl (2 mL) and AcOH (20 mL) and heated at 100° C. for 1 h. The reaction mixture was cooled to rt, diluted with water and extracted with EtOAc. The organic layer was washed with water, brine, dried and concentrated to give cyclized product (1.38 g, 47%). To a solution of the cyclized product (1.2 g, 3.69 mmol) in THF (30 mL), K2CO3 (613 mg, 4.44 mmol) was added and the mixture was stirred overnight at rt. Then the reaction mixture was neutralized by dilute HCl and extracted by EtOAc, the combined organic layers were washed with water, brine, dried and concentrated to give a crude product (548 mg, 52%). A mixture of the 6-methoxyflavone analogue (400 mg, 1.41 mmol) and pyridinium hydrochloride (8 g) was heated at 190° C. for 4 h. The reaction mixture was cooled to rt, diluted with water, neutralized with NaHCO3 and filtered to give the crude product. This was purified by crystallization using MeOH/dichloromethane/EtOAc to give 200 mg of 1-[4-(6-hydroxy-4-oxo-4H-chromen-2-yl)benzyl]pyridinium chloride (51%). MS (ES) m/z: 330.89 (M), 329.86 (M−1); Mp. 243-247° C.

reactant | K2CO3 | 4.44 mmol, 613 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
reactant | 6-methoxyflavone | COC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C16H12O3
reactant | pyridinium hydrochloride | 8 g | Cl.[NH+]1=CC=CC=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[4-(6-hydroxy-4-oxo-4H-chromen-2-yl)benzyl]pyridinium chloride | 200 mg, 51% | [Cl-].OC=1C=C2C(C=C(OC2=CC1)C1=CC=C(C[N+]2=CC=CC=C2)C=C1)=O | InChI=1S/C21H15NO3.ClH/c23-17-8-9-20-18(12-17)19(24)13-21(25-20)16-6-4-15(5-7-16)14-22-10-2-1-3-11-22;/h1-13H,14H2;1H
